US04859661
To a stirred mixture of 200 ml of water, 200 ml of ether and 20.0 g of 2-isopropylphenol was added dropwise 22.0 ml of 61% nitric acid, and then the mixture was reacted with stirring at room temperature for 2 days. The reaction mixture was extracted with 200 ml of ethyl acetate and dried with anhydrous sodium sulfate. After, the drying agent was filtered off and the solvent was distilled away under reduced pressure. The residue was purified by subjecting to silica-gel column-chromatography [eluent: chloroform-n-hexane (1:1)] to give 7.69 g of 6-isopropyl-2-nitrophenol.

reactant | water | 200 ml | O | H2O
reactant | 2-isopropylphenol | 20.0 g | C(C)(C)C1=C(C=CC=C1)O | C9H12O
reactant | nitric acid | 22.0 ml | [N+](=O)(O)[O-] | HNO3
solvent | ether | 200 ml | CCOCC | C4H10O
product | 6-isopropyl-2-nitrophenol | 7.69 g | C(C)(C)C1=CC=CC(=C1O)[N+](=O)[O-] | C9H11NO3
